### PR TITLE
[Merged by Bors] - feat: Add analytic structure groupoid on models with corners

### PR DESCRIPTION
**Pull request by michaellee94**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by michaellee94** [comment]
Happy to add some examples if necessary (i.e. replicate `Instances/Real.lean` and `Instances/Sphere.lean` in the analytic setting).

File: Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean [hunk 1]
```diff
@@ -646,6 +649,149 @@ instance : ClosedUnderRestriction (contDiffGroupoid n I) :=
...
+  [TopologicalSpace M]
+
+/-- Given a model with corners `(E, H)`, we define the groupoid of analytic transformations of `H`
+as the maps that are analytic and map interior to interior when read in `E` through `I`. We also
+explicitly define that they are `C^∞` on the whole domain, since we are only requiring
+analyticity on the interior of the domain. -/
+def analyticGroupoid : StructureGroupoid H :=
+  (contDiffGroupoid ∞ I) ∩ Pregroupoid.groupoid
+    { property := fun f s => AnalyticOn 𝕜 (I ∘ f ∘ I.symm) (I.symm ⁻¹' s ∩ interior (range I)) ∧
+        (I.symm ⁻¹' s ∩ interior (range I)).image (I ∘ f ∘ I.symm) ⊆ interior (range I)
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean:665]: This is quite a complicated definition; it looks right to me, but I think I'll invite further comment on Zulip.

The following is true, right:
```lean
theorem mem_analyticGroupoid_of_boundaryless [CompleteSpace 𝕜] [I.Boundaryless]
    (e : LocalHomeomorph H H) :
    e ∈ analyticGroupoid I ↔ AnalyticOn 𝕜 (I ∘ e ∘ I.symm) (I '' e.source) := by
  sorry
```
Assuming I've got that right, it would increase my confidence in the definition if we added this.

**Review by ocfnash — COMMENTED** [review]
This looks _great_!

I have a few minor remarks and a question for Zulip.

File: Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean:665]: Asked [here](https://github.com/leanprover-community/mathlib4/pull/6386) on Zulip.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 2]
```diff
@@ -544,6 +544,10 @@ theorem HasFPowerSeriesAt.add (hf : HasFPowerSeriesAt f pf x) (hg : HasFPowerSer
   exact ⟨r, hr.1.add hr.2⟩
 #align has_fpower_series_at.add HasFPowerSeriesAt.add
 
+theorem AnalyticAt.congr (hf : AnalyticAt 𝕜 f x) (hg : f =ᶠ[𝓝 x] g) : AnalyticAt 𝕜 g x :=
+  let ⟨_, hpf⟩ := hf
+  (hpf.congr hg).analyticAt
```
Comment (eric-wieser) [inline Mathlib/Analysis/Analytic/Basic.lean:549]: I think we should have an `iff` version of this too.

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 3]
```diff
@@ -175,6 +175,27 @@ variable [TopologicalSpace H]
 instance : Membership (LocalHomeomorph H H) (StructureGroupoid H) :=
   ⟨fun (e : LocalHomeomorph H H) (G : StructureGroupoid H) ↦ e ∈ G.members⟩
 
+instance : Inter (StructureGroupoid H) :=
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean:178]: Might it be better to use `Inf` here, if a lattice structure is in the future?

[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean:178]: @ocfnash I agree, there is a `CompleteLattice` structure on `StructureGroupoid H`. We're missing a few results necessary to show this. I'll work on it and see if I can get it in this PR.

File: Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean [hunk 4]
```diff
@@ -646,6 +649,149 @@ instance : ClosedUnderRestriction (contDiffGroupoid n I) :=
...
+
+/-- An identity local homeomorphism belongs to the analytic groupoid. -/
+theorem ofSet_mem_analyticGroupoid {s : Set H} (hs : IsOpen s) :
+    LocalHomeomorph.ofSet s hs ∈ analyticGroupoid I := by
+  rw [analyticGroupoid]
+  refine And.intro (ofSet_mem_contDiffGroupoid ∞ I hs) ?_
+  apply mem_groupoid_of_pregroupoid.mpr
+  suffices h : AnalyticOn 𝕜 (I ∘ I.symm) (I.symm ⁻¹' s ∩ interior (range I)) ∧
+      (I.symm ⁻¹' s ∩ interior (range I)).image (I ∘ I.symm) ⊆ interior (range I)
+  · simp [h]
```
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean]: Fixed!

File: Mathlib/Geometry/Manifold/ChartedSpace.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean]: @ocfnash Done!

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 5]
```diff
@@ -588,6 +592,10 @@ theorem AnalyticOn.mono {s t : Set E} (hf : AnalyticOn 𝕜 f t) (hst : s ⊆ t)
   fun z hz => hf z (hst hz)
 #align analytic_on.mono AnalyticOn.mono
 
+theorem AnalyticOn.congr {s : Set E} (hf : AnalyticOn 𝕜 f s) (hg : ∀ z ∈ s, f =ᶠ[𝓝 z] g) :
```
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/Analysis/Analytic/Basic.lean]: Done! Simplified existing proofs using `AnalyticOn.congr` as well.

File: Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean (hunk 1 above)
Comment (michaellee94) [reply Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean]: Will fill in the proof of `mem_analyticGroupoid_of_boundaryless`!

Comment (michaellee94) [reply Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean]: @ocfnash Sorry it took a while to follow up on this! Proof should be added now.

File: Mathlib/Analysis/Analytic/Basic.lean (hunk 2 above)
Comment (michaellee94) [reply Mathlib/Analysis/Analytic/Basic.lean:549]: Done! For `AnalyticOn.congr` as well.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 6]
```diff
@@ -588,6 +595,17 @@ theorem AnalyticOn.mono {s t : Set E} (hf : AnalyticOn 𝕜 f t) (hst : s ⊆ t)
   fun z hz => hf z (hst hz)
 #align analytic_on.mono AnalyticOn.mono
 
+theorem AnalyticOn.congr' {s : Set E} (hf : AnalyticOn 𝕜 f s) (hg : ∀ z ∈ s, f =ᶠ[𝓝 z] g) :
+    AnalyticOn 𝕜 g s :=
+  fun z hz => (hf z hz).congr (hg z hz)
+
+theorem AnalyticOn.congr {s : Set E} (hs : IsOpen s) (hf : AnalyticOn 𝕜 f s)
+    (hg : ∀ z ∈ s, f z = g z) : AnalyticOn 𝕜 g s :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/Analytic/Basic.lean:603]: Untested:
```suggestion
    (hg : s.eqOn f g) : AnalyticOn 𝕜 g s :=
```

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 7]
```diff
@@ -588,6 +595,17 @@ theorem AnalyticOn.mono {s t : Set E} (hf : AnalyticOn 𝕜 f t) (hst : s ⊆ t)
   fun z hz => hf z (hst hz)
 #align analytic_on.mono AnalyticOn.mono
 
+theorem AnalyticOn.congr' {s : Set E} (hf : AnalyticOn 𝕜 f s) (hg : ∀ z ∈ s, f =ᶠ[𝓝 z] g) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/Analytic/Basic.lean:598]: Is the following weaker or stronger?
```suggestion
theorem AnalyticOn.congr' {s : Set E} (hf : AnalyticOn 𝕜 f s) (hg : f =ᶠ[𝓝ˢ s] g) :
```

File: Mathlib/Analysis/Analytic/Basic.lean (hunk 6 above)
Comment (michaellee94) [reply Mathlib/Analysis/Analytic/Basic.lean]: Done!

File: Mathlib/Analysis/Analytic/Basic.lean (hunk 7 above)
Comment (michaellee94) [reply Mathlib/Analysis/Analytic/Basic.lean:598]: They're equivalent, I believe, by `mem_nhdsSet_iff_forall`.

https://github.com/leanprover-community/mathlib4/blob/2e06bd9f0f56ec7f72fad9f6bc0acd8ccdc0bf13/Mathlib/Topology/NhdsSet.lean#L47

Comment (eric-wieser) [reply Mathlib/Analysis/Analytic/Basic.lean:598]: In that case, I suspect the spelling I suggested is preferable?

Comment (michaellee94) [reply Mathlib/Analysis/Analytic/Basic.lean]: I agree! Just pushed the change.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 8]
```diff
@@ -588,6 +595,18 @@ theorem AnalyticOn.mono {s t : Set E} (hf : AnalyticOn 𝕜 f t) (hst : s ⊆ t)
   fun z hz => hf z (hst hz)
 #align analytic_on.mono AnalyticOn.mono
 
+theorem AnalyticOn.congr' {s : Set E} (hf : AnalyticOn 𝕜 f s) (hg : f =ᶠ[𝓝ˢ s] g) :
+    AnalyticOn 𝕜 g s :=
+  fun z hz => (hf z hz).congr (mem_nhdsSet_iff_forall.mp hg z hz)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Analytic/Basic.lean:600]: Can you add the `iff` version of this one?

File: Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean [hunk 9]
```diff
@@ -644,6 +648,163 @@ instance : ClosedUnderRestriction (contDiffGroupoid n I) :=
 
 end contDiffGroupoid
 
+section analyticGroupoid
+
+variable {𝕜 : Type _} [NontriviallyNormedField 𝕜] {E : Type _} [NormedAddCommGroup E]
```
Comment (eric-wieser) [inline Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean:653]:
```suggestion
variable {𝕜 : Type*} [NontriviallyNormedField 𝕜] {E : Type*} [NormedAddCommGroup E]
```
and throughout

Comment (michaellee94) [reply Mathlib/Geometry/Manifold/SmoothManifoldWithCorners.lean]: Done!

File: Mathlib/Analysis/Analytic/Basic.lean (hunk 8 above)
Comment (michaellee94) [reply Mathlib/Analysis/Analytic/Basic.lean:600]: Done!

**Review by ocfnash — APPROVED** [review]
Thanks very much. I promise future reviews will be quicker!

bors d+

File: Mathlib/Analysis/Analytic/Composition.lean [hunk 10]
```diff
@@ -878,6 +878,16 @@ theorem AnalyticAt.comp {g : F → G} {f : E → F} {x : E} (hg : AnalyticAt 
...
+/-- If two functions `g` and `f` are analytic respectively on `s.image f` and `s`, then `g ∘ f` is
+analytic on `s`. -/
+theorem AnalyticOn.comp {s : Set E} {g : F → G} {f : E → F} (hg : AnalyticOn 𝕜 g (s.image f))
+    (hf : AnalyticOn 𝕜 f s) : AnalyticOn 𝕜 (g ∘ f) s :=
+  fun z hz => (hg (f z) (Set.mem_image_of_mem f hz)).comp (hf z hz)
+
+theorem AnalyticOn.comp' {s : Set E} {t : Set F} {g : F → G} {f : E → F} (hg : AnalyticOn 𝕜 g t)
+    (hf : AnalyticOn 𝕜 f s) (st : s ⊆ f ⁻¹' t) : AnalyticOn 𝕜 (g ∘ f) s :=
+  comp (mono hg (Set.mapsTo'.mp st)) hf
+
```
[the remark this answers is not in the document]
Comment (michaellee94) [reply Mathlib/Analysis/Analytic/Composition.lean]: No worries, thanks for taking another look! Added your suggestions.
